US06258812B1
1-(3-Methylanilino)-4-(4-pyridylmethyl)phthalazine
A mixture of 2.39 g (16.8 mmol) phosphorus pentoxide, 2.31 g (16.8 mmol) triethylamine hydrochloride, and 1.82 ml (16.8 mmol) m-toluidine is heated and stirred in a nitrogen atmosphere at 200° C. until a homogeneous melt has formed. To the melt, 1 g (4.2 mmol) 4-(4-pyridylmethyl)-1(2H)-phthalazinone is added and the reaction mixture stirred for a further 3.5 h at 205° C. After cooling to about 170° C., 4 ml tetramethylurea is added to the reaction mixture, followed by 2 ml water at about 110° C. The mixture is stirred for a further 30 min while cooling to RT and then distributed between dichloromethane and a mixture of 20 ml water and 5 ml conc. ammonia. The organic phase dried over sodium sulfate is concentrated by evaporation and the residue purified on silica gel by flash chromatography using acetate and acetate/methanol (99:1 and 19:1). Title compound is obtained after crystallization of the product-containing fractions from acetonitrile and subsequent recrystallzation from acetate; m.p. 141-143° C.; ESI-MS: (M+H)+=327.

reactant | phosphorus pentoxide | 16.8 mmol, 2.39 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 16.8 mmol, 2.31 g | Cl.C(C)N(CC)CC
reactant | m-toluidine | 16.8 mmol, 1.82 ml | NC1=CC(=CC=C1)C | C7H9N
reactant | 4-(4-pyridylmethyl)-1(2H)-phthalazinone | 4.2 mmol, 1 g | N1=CC=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C14H11N3O
reactant | tetramethylurea | 4 ml | CN(C(N(C)C)=O)C | C5H12N2O
reactant | ammonia | 5 ml | N | H3N
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | 1-(3-Methylanilino)-4-(4-pyridylmethyl)phthalazine | CC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=CC1 | C21H18N4
